US09403807B2
Step A: methyl 4-(4-chlorophenyl)-4-(4-(N-((2-(trimethylsilyl)ethoxy)methyl)methyl sulfonamido)-1H-indol-1-yl)hex-2-ynoate
To a solution of compound N-(1-(3-(4-chlorophenyl)pent-1-yn-3-yl)-1H-indol-4-yl)-N-((2-(trimethylsilyl)ethoxy)methyl)methanesulfonamide (2.9 g, 5.6 mmol, enantiomer A), as described in Example 55 Step A, in dry THF (10 mL) was added BuLi (4.5 mL, 11.2 mmol, 2.5 M in hexane) at −78° C. After stirring for 30 min, methyl carbonchloridate (0.88 mL, 6.2 mmol) was added to the mixture at −78° C. The resulting mixture was stirred for another 2 h and then quenched with saturated NH4Cl (10 mL), extracted with ethyl acetate, washed with brine (50 mL), dried over sodium sulfate, then filtered. After removing the organic solvent, the residue was purified by column chromatography (EA/PE=1:10) to obtain the title compound. LC/MS m/z=597.0 [M+Na]+.

reactant | N-(1-(3-(4-chlorophenyl)pent-1-yn-3-yl)-1H-indol-4-yl)-N-((2-(trimethylsilyl)ethoxy)methyl)methanesulfonamide | ClC1=CC=C(C=C1)C(C#C)(CC)N1C=CC2=C(C=CC=C12)N(S(=O)(=O)C)COCC[Si](C)(C)C | C26H33ClN2O3SSi
reactant | BuLi | 11.2 mmol, 2.5 M, 4.5 mL | [Li]CCCC
reactant | methyl carbonchloridate | 6.2 mmol, 0.88 mL | C(OC)(=O)Cl | C2H3ClO2
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | methyl 4-(4-chlorophenyl)-4-(4-(N-((2-(trimethylsilyl)ethoxy)methyl)methyl sulfonamido)-1H-indol-1-yl)hex-2-ynoate | ClC1=CC=C(C=C1)C(C#CC(=O)OC)(CC)N1C=CC2=C(C=CC=C12)N(S(=O)(=O)C)COCC[Si](C)(C)C | C28H35ClN2O5SSi
